*
Vin	Vin	0	AC	1
*
*	V-	V+	Vout
R014	Vin 2	22k
Z1a	4	2	Vout
C010	4	Vout	10p
R015	4	Vout	22k

PR03a	2	5	4	100k
R061	5	6	2.2k
C044	6	0	0.01u

PR03b	2	7	4	100k
C008	7	8	0.22u
R012	8	10	2.2k
C009	8	9	0.047u
R013	9	0	1000k
Z1b	10	9	10
*